### PR TITLE
refactor(SetLike): introduce OrderedSetLike and remove SetLike.instPartialOrder

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/SetLike/Basic.lean [hunk 1]
```diff
@@ -186,15 +194,32 @@ protected theorem eta (x : p) (hx : (x : B) ∈ p) : (⟨x, hx⟩ : p) = x := rf
 
 @[simp] lemma setOf_mem_eq (a : A) : {b | b ∈ a} = a := rfl
 
-instance (priority := 100) instPartialOrder : PartialOrder A :=
-  { PartialOrder.lift (SetLike.coe : A → Set B) coe_injective with
-    le := fun H K => ∀ ⦃x⦄, x ∈ H → x ∈ K }
+def toOrderedSetLike : OrderedSetLike A B where
+  __ := PartialOrder.lift (SetLike.coe : A → Set B) coe_injective
+  __ := (by assumption : SetLike A B)
```
Comment (artie2000) [inline Mathlib/Data/SetLike/Basic.lean:199]:
```suggestion
  __ := ‹SetLike A B›
```

File: Mathlib/Data/SetLike/Basic.lean [hunk 2]
```diff
@@ -186,15 +194,32 @@ protected theorem eta (x : p) (hx : (x : B) ∈ p) : (⟨x, hx⟩ : p) = x := rf
 
 @[simp] lemma setOf_mem_eq (a : A) : {b | b ∈ a} = a := rfl
 
-instance (priority := 100) instPartialOrder : PartialOrder A :=
-  { PartialOrder.lift (SetLike.coe : A → Set B) coe_injective with
-    le := fun H K => ∀ ⦃x⦄, x ∈ H → x ∈ K }
+def toOrderedSetLike : OrderedSetLike A B where
```
Comment (artie2000) [inline Mathlib/Data/SetLike/Basic.lean:197]: docstring idea: "Construct a partial order on `A` from the ordering by inclusion on `Set B`"

File: Mathlib/Data/SetLike/Basic.lean [hunk 3]
```diff
@@ -186,15 +194,32 @@ protected theorem eta (x : p) (hx : (x : B) ∈ p) : (⟨x, hx⟩ : p) = x := rf
...
+    simpa [le_antisymm_iff, ← OrderedSetLike.coe_subset_coe'] using h
+
+@[simp, norm_cast] lemma coe_subset_coe {S T : A} : (S : Set B) ⊆ T ↔ S ≤ T :=
+  OrderedSetLike.coe_subset_coe'
+
+theorem le_def {S T : A} : S ≤ T ↔ ∀ ⦃x : B⦄, x ∈ S → x ∈ T := by
+  simp [← coe_subset_coe, Set.subset_def]
+
+@[simp, norm_cast] lemma coe_ssubset_coe {S T : A} : (S : Set B) ⊂ T ↔ S < T := by
+  rw [ssubset_iff_subset_ne, lt_iff_le_and_ne, coe_subset_coe, SetLike.coe_ne_coe]
```
Comment (Vierkantor) [inline Mathlib/Data/SetLike/Basic.lean:222]: Should these renames get deprecated aliases? They seem to be used a lot.

**Comment by jcommelin** [comment]
Closing this in favour of the work by @artie2000
